US06455507B1
c) (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl Diacetate
(±)-(1R*,2S*,3R*)-3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate (part b of this example, 1.58 g, 4.10 mmol) was dissolved in dry N,N-dimethylformamide (6.4 ml) and maintained at 65° C. under nitrogen while N-bromosuccinimide (1.46 g, 8.2 mmol) was added in 2 portions over 1 h. Volatiles were evaporated in vacuo and the residue was chromatographed on silica gel. Title compound was eluted with ethyl acetate as an off-white powder (0.95 g, 49%), m.p. 71-79° C.

reactant | (±)-(1R*,2S*,3R*)-3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)N1C=NC2=C1C=C(C(=C2)Cl)Cl)OC(C)=O | C17H18Cl2N2O4
reactant | N-bromosuccinimide | 8.2 mmol, 1.46 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 6.4 ml | CN(C=O)C | C3H7NO
product | (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl Diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)OC(C)=O | C17H17BrCl2N2O4
